* Mostly ideal op amp
* in+ in- out vcc vdd
.subckt opamp 1 2 3 4 5 vos=1m
RG1 4 0 10Meg
RG2 5 0 10Meg
Rin 1 2 10G
Cin 1 2 100pF
Rout 6 0 0.1
* Ignores power rails (more ideal)
Bout 3 6 v={100k*v(1,2)}
* Has less amplification for low voltages and approaches supply voltages
* Bout 3 6 v={(v(4)+v(5))/2+v(4,5)*atan(100k*(v(1,2)-vos))/pi}
.ends

* Better op amp
* in+ in- out vcc vdd
.subckt opamp2 1 2 3 4 5 vos=3m Aol=200k B1=3Meg sr=13Meg
Rin 1 2 10G
Cin 1 2 100pF
Bos 20 2 V='vos'

B1 0 10 I='tanh((6.283185*B1/sr)*V(1, 20))'
R1 10 0 R='Aol*sr/(6.283185*B1)'
C1 10 0 C='1/sr'

DP 10 11 DIODE
VP 4 11 1.5
DN 12 10 DIODE
VN 12 5 1.5

Eout 6 0 10 0 1
Rout 6 3 0.1
.ends

* out1 in1- in1+ vcc in2+ in2- out2
* out3 in3- in3+ vdd in4+ in4- out4
.subckt lm324 1 2 3 4 5 6 7 8 9 10 11 12 13 14
XA 3 2 1 4 11 opamp2
XB 5 6 7 4 11 opamp2
XC 10 9 8 4 11 opamp2
XD 12 13 14 4 11 opamp2
.ends

* SPDT switch
* throw pole throw
.subckt sw_spdt 1 2 3
R1 1 2 R={time < 1ms ? 10Meg : 1m}
R2 2 3 R={time < 1ms ? 1m : 10Meg}
R3 1 3 100Meg
.ends

.subckt Lcoupled 1 2 3 4
L1 1 2 100nH
L2 3 4 100nH
K12 L1 L2 0.98
.ends

* Diode Bridge  + - ~ ~
.subckt DBridge 1 2 3 4
D1 2 3 DIODE
D2 2 4 DIODE
D3 3 1 DIODE
D4 4 1 DIODE
.ends
