* Mostly ideal op amp
* in+ in- out vcc vdd
.subckt opamp 1 2 3 4 5 vos=1m
RG1 4 0 10Meg
RG2 5 0 10Meg
Rin 1 2 10G
Cin 1 2 100pF
Rout 6 0 0.1
* Ignores power rails (more ideal)
Bout 3 6 v={100k*v(1,2)}
* Has less amplification for low voltages and approaches supply voltages
* Bout 3 6 v={(v(4)+v(5))/2+v(4,5)*atan(100k*(v(1,2)-vos))/pi}
.ends

* Better op amp
* in+ in- out vcc vdd
.subckt opamp2 1 2 3 4 5 vos=3m Aol=200k B1=3Meg sr=13Meg
Rin 1 2 10G
Cin 1 2 100pF
Bos 20 2 V='vos'

B1 0 10 I='tanh((6.283185*B1/sr)*V(1, 20))'
R1 10 0 R='Aol*sr/(6.283185*B1)'
C1 10 0 C='1/sr'

DP 10 11 DIODE
VP 4 11 1.5
DN 12 10 DIODE
VN 12 5 1.5

Eout 6 0 10 0 1
Rout 6 3 0.1
.ends

* out1 in1- in1+ vcc in2+ in2- out2
* out3 in3- in3+ vdd in4+ in4- out4
.subckt lm324 1 2 3 4 5 6 7 8 9 10 11 12 13 14
XA 3 2 1 4 11 opamp2
XB 5 6 7 4 11 opamp2
XC 10 9 8 4 11 opamp2
XD 12 13 14 4 11 opamp2
.ends

* out1 in1- in1+ vdd in2+ in2- out2 vcc
.subckt lm358 1 2 3 4 5 6 7 8
XA 3 2 1 8 4 opamp2
XB 5 6 7 8 4 opamp2
.ends

* Potentiometer
.subckt rpot 1 2 3 k=0.5 R=100k
R1 1 2 R='(1-k)*R'
R2 2 3 R='k*R'
.ends

* SPDT switch
* throw pole throw
.subckt sw_spdt 1 2 3
R1 1 2 R={time < 1ms ? 10Meg : 1m}
R2 2 3 R={time < 1ms ? 1m : 10Meg}
R3 1 3 100Meg
.ends

.subckt Lcoupled 1 2 3 4
L1 1 2 100nH
L2 3 4 100nH
K12 L1 L2 0.98
.ends

* Diode Bridge  + - ~ ~
.subckt DBridge 1 2 3 4
D1 2 3 DIODE
D2 2 4 DIODE
D3 3 1 DIODE
D4 4 1 DIODE
.ends

.SUBCKT UA555  34 32 30 19 23 33 1  21
*              G  TR O  R  F  TH D  V
Q4 25 2 3 QP
Q5 34 6 3 QP
Q6 6 6 8 QP
R1 9 21 4.7K
R2 3 21 830
R3 8 21 4.7K
Q7 2 33 5 QN
Q8 2 5 17 QN
Q9 6 4 17 QN
Q10 6 23 4 QN
Q11 12 20 10 QP
R4 10 21 1K
Q12 22 11 12 QP
Q13 14 13 12 QP
Q14 34 32 11 QP
Q15 14 18 13 QP
R5 14 34 100K
R6 22 34 100K
R7 17 34 10K
Q16 1 15 34 QN
Q17 15 19 31 QP
R8 18 23 5K
R9 18 34 5K
R10 21 23 5K
Q18 27 20 21 QP
Q19 20 20 21 QP
R11 20 31 5K
D1 31 24 DA
Q20 24 25 34 QN
Q21 25 22 34 QN
Q22 27 24 34 QN
R12 25 27 4.7K
R13 21 29 6.8K
Q23 21 29 28 QN
Q24 29 27 16 QN
Q25 30 26 34 QN
Q26 21 28 30 QN
D2 30 29 DA
R14 16 15 100
R15 16 26 220
R16 16 34 4.7K
R17 28 30 3.9K
Q3 2 2 9 QP
.MODEL DA D (RS=40 IS=1.0E-14 CJO=1PF)
.MODEL QP PNP (level=1 BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2)
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (level=1 IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2
+ BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.ENDS
